US09403810B2
Step 1: 4,4-Dimethylcyclopent-1-en-1-yl trifluoromethanesulfonate
To a stirred solution of 4,4-dimethylcyclopent-2-enone (Atlantic) (0.500 g, 4.54 mmol) in dry THF (25 mL) under nitrogen at −78° C., 1M L-Selectride in THF (4.539 mL, 4.54 mmol) was added. The reaction mixture was stirred at −78° C. for 1 hour and treated with a solution of 1,1,1-trifluoro-N-(pyridin-2-yl)-N-((trifluoromethyl)sulfonyl)methanesulfonamide (Alfa Aesar) (1.626 g, 4.54 mmol) in dry THF (5 mL). The mixture was stirred and allowed to warm to room temperature overnight. The resulting mixture was partitioned between hexane (60 mL) and water (50 mL), the phases separated and the aqueous phase was extracted with hexane (50 mL). The combined organic extracts were washed with 10% aqueous NaOH (40 mL), brine (40 mL), dried over MgSO4, filtered and concentrated under reduced pressure to give a pale yellow oil. The crude material was adsorbed onto silica and purification by chromatography eluting with 100% iso-hexane afforded the title compound;

reactant | 4,4-dimethylcyclopent-2-enone | 4.54 mmol, 0.500 g | CC1(C=CC(C1)=O)C | C7H10O
reactant | L-Selectride | 1M | CCC([BH-](C(CC)C)C(CC)C)C.[Li+]
reactant | 1,1,1-trifluoro-N-(pyridin-2-yl)-N-((trifluoromethyl)sulfonyl)methanesulfonamide | 4.54 mmol, 1.626 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=NC=CC=C1)(F)F | C7H4F6N2O4S2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 4.54 mmol, 4.539 mL | C1CCOC1 | C4H8O
product | 4,4-Dimethylcyclopent-1-en-1-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CCC(C1)(C)C)(F)F | C8H11F3O3S
